US06939928B1
(1) Synthesis of 6-methyl-6-ethylfulvene
To a solution of 10.00 g (151.3 mmol) of cyclopentadiene in 30 ml of methanol, 13.6 ml (151.8 mmol) of methyl ethyl ketone and 12.8 ml (153.3 mmol) of pyrrolidine were added with ice cooling, followed by stirring at room temperature for one night. After the reaction solution was diluted with 200 ml of ether, 100 ml of water was added. The organic phase was separated, washed with water and a saturated saline solution, then dried over anhydrous magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was subjected to vacuum distillation (75-82° C./20 mmHg) to obtain 9.20 g (76.55 mmol) of a yellow liquid (yield: 51%). The analyzed values are given below.

reactant | cyclopentadiene | 151.3 mmol, 10.00 g | C1=CC=CC1 | C5H6
reactant | methyl ethyl ketone | 151.8 mmol, 13.6 ml | C(C)C(=O)C | C4H8O
reactant | pyrrolidine | 153.3 mmol, 12.8 ml | N1CCCC1 | C4H9N
solvent | methanol | 30 ml | CO | CH4O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 6-methyl-6-ethylfulvene | 76.55 mmol, 9.20 g, yield: 51% | CC(=C1C=CC=C1)CC | C9H12
